US06320041B1
Preparation of Phthalimidyl 10-hydroxydecanoate
To a solution of 10-hydroxydecanoic acid (1.880 g, 10 mmol) in dichloromethane (25 mL) at room temperature was added N-hydroxyphthalimide (NHP) (1.63 g, 10 mmol) followed by N, N′-dicyclohexylcarbodimide (DCC) (2.1 g, 10 mmol). Quantitative conversion to product was achieved after stirring at room temperature for 45 minutes as determined by tlc using silica gel (ethyl acetate/heptane 4:1; Rf=0.28). The precipitate was removed by filtration and the filtrate was evaporated to dryness. The residue was chromatographed on silica gel column (2.5×30 cm) using chloroform/methanol (98:2) to give 1.7 g product (yield 52%) as a colorless syrup.

reactant | 10-hydroxydecanoic acid | 10 mmol, 1.880 g | OCCCCCCCCCC(=O)O | C10H20O3
reactant | N-hydroxyphthalimide | 10 mmol, 1.63 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | N, N′-dicyclohexylcarbodimide | 10 mmol, 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | Phthalimidyl 10-hydroxydecanoate | 1.7 g, yield 52% | OCCCCCCCCCC(=O)ON1C(C=2C(C1=O)=CC=CC2)=O | C18H23NO5
